US07465726B2
Dimethyl-{2-[2-(3-nitrophenyl)imidazol-1-yl]ethyl}amine
At rt and under N2, to a solution of 2-(3-nitrophenyl)-1H-imidazole (0.189 g, 1.00 mmol) and (2-bromoethyl)dimethylamine hydrobromide (0.280 g, 1.20 mmol) in anhydrous DMF (5 mL) was added NaH (60% in mineral oil, 160 mg, 4.0 mmol) in two portions with caution. The mixture was stirred at rt for 15 h. Water (0.3 mL) was added cautiously to quench the reaction. Solvent was removed in vacuo, and the residue was purified by silica gel chromatography (5% MeOH in dichloromethane) to afford the title compound. 1H-NMR (CDCl3, 400 MHz): δ=2.24 (s, 6H), 2.69 (t, J=7.2 Hz, 2H), 4.13 (d, J=6.8 Hz, 2H), 7.17 (d, J=1.2 Hz, 1H), 7.19 (d, J=1.2 Hz, 1H), 7.65 (t, J=8.0 Hz, 1H), 8.04(dt, J=0.8, 8.0 Hz, 1H), 8.28 (dq, J=1.2, 8.4 Hz, 1H), 8.56 (t, J=1.6 Hz, 1H). MS (ES+): m/z 261.17 [MH+]. HPLC: tR=0.46 min (ZQ2000, polar—5 min).

reactant | 2-(3-nitrophenyl)-1H-imidazole | 1.00 mmol, 0.189 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1NC=CN1 | C9H7N3O2
reactant | (2-bromoethyl)dimethylamine hydrobromide | 1.20 mmol, 0.280 g | Br.BrCCN(C)C
reactant | NaH | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | Water | 0.3 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Dimethyl-{2-[2-(3-nitrophenyl)imidazol-1-yl]ethyl}amine | CN(CCN1C(=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C | C13H16N4O2
